US05298652
Conversion of 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid to the acid chloride with thionyl chloride followed by treatment with dimethyl iminodiacetate gave N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine methyl ester as an oil after chromatography on 50 g of silica gel using 25% ethyl acetate-hexane. The structure was confirmed by the nmr spectrum.

reactant | 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C32H48O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl iminodiacetate | N(CC(=O)OC)CC(=O)OC | C6H11NO4
product | N-(2-methoxy-2-oxoethyl)-N-[3-(octadecyloxy)-5-(phenylmethoxy)benzoyl]glycine methyl ester | COC(CN(C(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C38H57NO7
